US05420126
In 5 ml of methylene chloride was dissolved 0.2 ml of oxalyl chloride and at a constant temperature between -50° C. and -60° C., a solution prepared by dissolving 0.34 ml of dimethyl sulfoxide in 1 ml of methylene chloride was added dropwise. The mixture was stirred for 2 minutes, after which a solution of 0.54 g of 6-cyano-3,4-dihydro-2,2-dimethyl-4-(2-hydroxycyclopentan-1-yl)-2H-1,4-benzoxazine in 2 ml of methylene chloride was added dropwise. The mixture was further stirred for 15 minutes and 0.7 ml of triethylamine was added. The mixture was stirred for an additional 5 minutes, after which it was allowed to return to room temperature. The reaction mixture was diluted with 10 ml of water and extracted with methylene chloride. The extract was washed with aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recovered by filtration, washed with ethanol and recrystallized from ethyl acetate to give 0.28 g of 6-cyano-3,4-dihydro-2,2-dimethyl-4(2-oxocyclopentyl)-2H-1,4-benzoxazine.

reactant | dimethyl sulfoxide | 0.34 ml | CS(=O)C | C2H6OS
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-4-(2-hydroxycyclopentan-1-yl)-2H-1,4-benzoxazine | 0.54 g | C(#N)C=1C=CC2=C(N(CC(O2)(C)C)C2C(CCC2)O)C1 | C16H20N2O2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 6-cyano-3,4-dihydro-2,2-dimethyl-4(2-oxocyclopentyl)-2H-1,4-benzoxazine | 0.28 g | C(#N)C=1C=CC2=C(N(CC(O2)(C)C)C2C(CCC2)=O)C1 | C16H18N2O2
